### PR TITLE
Complete the part 2.

### PR DESCRIPTION
**Pull request by kim-yoonseung**
.

### CODE REVIEW

File: sepcomp/Linkerproof.v [hunk 1]
```diff
@@ -243,13 +236,94 @@ Ltac simplify :=
...
+         end = OK _
+      |- _ => (destruct x eqn:?D;[|inv H])
+  end.
+
+Ltac simplify_res:=
+  match goal with
+    | H: OK ?x = OK ?y |- _ => inv H
+  end.
+
+Lemma compiler_generalization:
```
Comment (jeehoonkang) [inline sepcomp/Linkerproof.v]: `transf_c_program_compile_c_program`

File: sepcomp/Linkerproof.v [hunk 2]
```diff
@@ -243,13 +236,94 @@ Ltac simplify :=
...
+    unfold transf_rtl_program.
+    unfold apply_partial, apply_total.
+    unfold time, print.
+
+    destruct (Allocation.transf_program p7); [|inv D5].
+    inv D5. rewrite -> D2.
+    rewrite -> D0. auto.
+Qed.
 
+Definition rtl_opt_tree := Tree.tree_change_one optimize_rtl_program.
```
Comment (jeehoonkang) [inline sepcomp/Linkerproof.v]: `change_one`

File: sepcomp/backend/Selectionproof_sepcomp.v [hunk 3]
```diff
@@ -35,56 +35,45 @@ Require Import SelectOpproof.
...
     (fun p f tf =>
-       exists hf,
-         i64_helpers_correct (Genv.globalenv p) hf /\
-         sel_function hf (Genv.globalenv p) f = OK tf)
+       sel_function (Genv.globalenv p) f = OK tf)
     (fun p ef tef =>
-       exists hf,
-         i64_helpers_correct (Genv.globalenv p) hf /\
-         ef = tef)
+       ef = tef)
```
Comment (jeehoonkang) [inline sepcomp/backend/Selectionproof_sepcomp.v]: why entered?

File: sepcomp/backend/Selectionproof_sepcomp.v [hunk 4]
```diff
@@ -35,56 +35,45 @@ Require Import SelectOpproof.
...
+Hypothesis HELPERS:
+  forall name sg, In (name, sg) i64_helpers -> helper_declared ge name sg.
 Hypothesis TRANSF:
   @sepcomp_rel
     Language_Cminor Language_CminorSel
     (fun p f tf =>
-       exists hf,
-         i64_helpers_correct (Genv.globalenv p) hf /\
-         sel_function hf (Genv.globalenv p) f = OK tf)
+       sel_function (Genv.globalenv p) f = OK tf)
```
Comment (jeehoonkang) [inline sepcomp/backend/Selectionproof_sepcomp.v]: why entered?
